US07179801B2
A suspension of {5-amino-1-[2-(trityloxy)ethyl]pyrazol-4-yl}methylamine (19.7 g, 49.4 mmol) in ethyl formate (500 ml) was stirred at 50° C. for 3 hours. After evaporation of the solvent in vacuo, the residue was triturated with diisopropyl ether to give N-{5-amino-1-[2-(trityloxy)ethyl]pyrazol-4-yl}methylformamide (7.99 g) as a solid.

reactant | {5-amino-1-[2-(trityloxy)ethyl]pyrazol-4-yl}methylamine | 49.4 mmol, 19.7 g | NC1=C(C=NN1CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CN | C25H26N4O
reactant | ethyl formate | 500 ml | C(=O)OCC | C3H6O2
product | N-{5-amino-1-[2-(trityloxy)ethyl]pyrazol-4-yl}methylformamide | 7.99 g | NC1=C(C=NN1CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CNC=O | C26H26N4O2
